US03991072
To 80 parts of ethanol, previously saturated with gaseous ammonia, are added 2.3 parts of (-)-2-mercapto-1-(2-phenylethyl)-1H-imidazole-5-carboxamide hydrate and 6 parts of Raney-nickel. The mixture is stirred and refluxed for 2 hours and thereafter allowed to cool to room temperature. The Raney-nickel is filtered off and the filter-cake is washed with ethanol. The filtrate is evaporated in vacuo and the residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 5% of methanol and eluent. The pure fractions are collected and the eluent is evaporated, yielding (-)-1-(1-phenylethyl)-1H-imidazole-5-carboxamide, essentially free of its (+)-isomer, as a residue.

reactant | ammonia | N | H3N
reactant | (-)-2-mercapto-1-(2-phenylethyl)-1H-imidazole-5-carboxamide hydrate | O.SC=1N(C(=CN1)C(=O)N)CCC1=CC=CC=C1
reactant | ethanol | C(C)O | C2H6O
catalyst | Raney-nickel | [Ni] | Ni
product | (-)-1-(1-phenylethyl)-1H-imidazole-5-carboxamide | C1(=CC=CC=C1)C(C)N1C=NC=C1C(=O)N | C12H13N3O
